Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2](=[C:3]=[O:4])[O:9][C:7](=[C:5][H:6])[H:8]>>[H:1][C:2]1=[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[O:9]1,-0.6263507318399999
[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11].[O:1]>>[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],-5.0102385147
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[C:6]([H:7])(=[C:8]([H:9])[H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:12]([H:13])[C:15]([H:14])([H:16])[H:17],1.17136319765
[H:1][C:2]([H:3])=[C:4][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:5][C:7]([H:6])=[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.61842248406
[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][H:9],1.95996080932
[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2].[O:3]=[C:4]=[C:5][O:6][C:7]([H:8])[H:9],3.25173075511
[H:10].[H:1]/[C:2]([O:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9]\[C:11]([H:12])([H:13])[H:14]>>[H:1]/[C:2]([O:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-4.78824653833
[C:3]([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.13014903455
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],0.0887669281183
[H:16].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.5699358433800015
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],1.29554249374
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5],4.13306559836
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[O:1],8.16476781728
[C:3]([H:4])([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2][C@:3]([H:4])([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],-0.572964394251
[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5]=[C:6]([H:7])[H:8],2.10959313442
[H:1][C:2]#[C:3].[O:4]=[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[O:9][H:10],-1.73446459151
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1],2.96165155004
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:5]([O:6][H:7])=[C:8]([H:9])[H:10].[H:4],1.93559502749
[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2][O:3][C:4]#[C:6][C:7]([H:8])[H:9].[H:5],4.61645892866
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][C:2],8.23636815841
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5],3.24185680555
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[C:1]#[C:3][C:4]([H:5])([H:6])[H:7].[C:2],6.364834127540001
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:9][H:10],5.11866745337
[H:1][C:2][C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-5.237769127119999
[H:1][C:2][O:4][C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.4409616257
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7].[O:8]=[C:9]=[C:10]([H:11])[H:12],0.903324883381
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])=[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]=[O:5],-2.97601957486
[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-4.72566789809
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])[H:7])[C:12]([C:10](=[C:8][H:9])[H:11])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]1[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[C:12]1([H:13])[H:14],-3.59822393311
